US04827020
3.9 g of methyl N-propargyl-N-methoxycarbonylglycinate were added to the mixture of 100 ml of 28% aqueous ammonia and 10 ml of methanol and stirred for 10 hours at room temperature. Then the solvent was evaporated off from the reaction mixture. The residue was chromatograhed on silica gel to obtain 3.0 g of N-propargyl-N-methoxycarbonylglycinamide (melting point: 77°-80° C.).

reactant | methyl N-propargyl-N-methoxycarbonylglycinate | 3.9 g | C(C#C)N(CC(=O)OC)C(=O)OC | C8H11NO4
reactant | ammonia | 100 ml | N | H3N
reactant | methanol | 10 ml | CO | CH4O
product | N-propargyl-N-methoxycarbonylglycinamide | 3.0 g | C(C#C)N(C(CN)=O)C(=O)OC | C7H10N2O3
